US08349859B2
To a solution of 2,4-dichloropyrimidine (1 mmol) and 5-aminoindazole (1 mmol) dissolved in 5 ml EtOH was added Et3N (1 mmol). The reaction mixture was refluxed for 5 h. After removal of the solvent in vacuo and addition of H2O, the mixture was extracted with EtOAc. The organic layers were combined, washed with a saturated NaCl aqueous solution, dried over anhydrous Na2SO4, and concentrated in vacuo. The resulted oil was purified by column chromatography to give N-(2-chloropyrimidin-4-yl)-1H-indazol-5-amine in a yield of 80%.

reactant | 2,4-dichloropyrimidine | 1 mmol | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 5-aminoindazole | 1 mmol | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | Et3N | 1 mmol | CCN(CC)CC | C6H15N
solvent | EtOH | 5 ml | CCO | C2H6O
product | N-(2-chloropyrimidin-4-yl)-1H-indazol-5-amine | yield of 80% | ClC1=NC=CC(=N1)NC=1C=C2C=NNC2=CC1 | C11H8ClN5
